US05716624
(a) Preparation of α-trimethylsilylethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol
17.13 ml (0.121 mol) of trimethylsilylacetylene and 100 ml of THF were introduced into a three-necked flask. A solution of 48.5 ml (0.121 mol) of n-butyllithium (2.5M in hexane) was added dropwise at -78° C. under a stream of nitrogen and the mixture was permitted to heat to room temperature. This solution was introduced dropwise into a solution of 23.8 g (0.11 mol) of 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenecarboxaldehyde in 100 ml of THF at -78° C. The reaction mixture was permitted to heat to room temperature, was poured into an aqueous ammonium chloride solution and was extracted with ethyl ether. The organic phase was separated by settling, dried over magnesium sulfate and evaporated. The residue obtained was purified by chromatography on a silica column eluted with a mixture of dichloromethane and hexane (50/50). After evaporating the solvents, 29.9 g (86%) of the expected alcohol were recovered in the form of a yellow oil.

reactant | trimethylsilylacetylene | 0.121 mol, 17.13 ml | C[Si](C)(C)C#C | C5H10Si
reactant | n-butyllithium | 0.121 mol, 2.5M, 48.5 ml | C(CCC)[Li]
reactant | 5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenecarboxaldehyde | 0.11 mol, 23.8 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)C=O)C | C15H20O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | α-trimethylsilylethynyl-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthalenemethanol | C[Si](C#CC1=C(C=CC=2C(CCC(C12)(C)C)(C)C)CO)(C)C | C20H30OSi
